US05157026
2-Butyl-7-methyl-3-(2'-(N-triphenylmethyltetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine was prepared according to the procedure described in Example 7, Part A from 2-butyl-7-methylimidazo[4,5-b]pyridine (28 mg, 0.148 mmol), N-triphenylmethyl-5-(4'-bromomethylbiphenyl-2-yl)tetrazole (62 mg, 0.135 mmol), and NaH (0.296 mmol).

reactant | 2-butyl-7-methylimidazo[4,5-b]pyridine | 0.148 mmol, 28 mg | C(CCC)C=1NC=2C(=NC=CC2C)N1 | C11H15N3
reactant | N-triphenylmethyl-5-(4'-bromomethylbiphenyl-2-yl)tetrazole | 0.135 mmol, 62 mg | C1(=CC=CC=C1)C(N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CBr)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | NaH | 0.296 mmol | [H-].[Na+]
product | 2-Butyl-7-methyl-3-(2'-(N-triphenylmethyltetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | C(CCC)C1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H39N7
